US05200415
Synthesis of 1-azabicyclo[2.2.2]oct-3-yl 7-ethylpyrazolo[1,5-a]pyridine-3-carboxylate
After suspension of 140 mg (1.10 mmol) of 3-quinuclidinol in 20 ml of benzene was refluxed for 0.5 hour by using a Dean-Stark apparatus, 0.05 g of metal sodium was added and the resultant mixture was refluxed under stirring for further 1.5 hours. Unreacted sodium was removed and 80 mg (0.37 mmol) of ethyl 7-ethylpyrazolo[1,5-a]pyridine-3-carboxylate were added, followed by heating under reflux for 12 hours. The solvent of the reaction mixture was distilled off under reduced pressure and the residue was purified by chromatography on a silica gel column (chloroform: methanol=10:1), whereby 100 mg (0.33 mmol) of the title compound were obtained as an oily substance (yield: 91%).

reactant | 3-quinuclidinol | 1.10 mmol, 140 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | sodium | [Na] | Na
reactant | ethyl 7-ethylpyrazolo[1,5-a]pyridine-3-carboxylate | 0.37 mmol, 80 mg | C(C)C1=CC=CC=2N1N=CC2C(=O)OCC | C12H14N2O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-azabicyclo[2.2.2]oct-3-yl 7-ethylpyrazolo[1,5-a]pyridine-3-carboxylate | 0.33 mmol, 100 mg, yield: 91% | C(C)C1=CC=CC=2N1N=CC2C(=O)OC2CN1CCC2CC1 | C17H21N3O2
